US07709483B2
(d) 1,1-Dimethylethyl 7-[(acetyloxy)methyl]-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate
A mixture of (5-{[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)ethyl]oxy}-4-{[(trifluoromethyl)sulfonyl]oxy}-2-pyridinyl)methyl acetate (1.58 g, 3.4 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BI NAP) (110 mg, 0.2 mmol), palladium(II) acetate (25 mg, 0.1 mmol) and cesium carbonate (1.57 g, 4.8 mmol) in toluene (20 ml) was heated to 100° C. under argon for 16 hours then filtered and evaporated. (See S. L. Buchwald, Org Letts, 1999, 1, 35-37; for the procedure). The residue was chromatographed on silica gel, eluting with 0-100% ethyl acetate in petrol, to afford a white solid (0.84 g, 79%)

reactant | (5-{[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)ethyl]oxy}-4-{[(trifluoromethyl)sulfonyl]oxy}-2-pyridinyl)methyl acetate | 3.4 mmol, 1.58 g | C(C)(=O)OCC1=NC=C(C(=C1)OS(=O)(=O)C(F)(F)F)OCCNC(=O)OC(C)(C)C | C16H21F3N2O8S
reactant | cesium carbonate | 4.8 mmol, 1.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.1 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.2 mmol, 110 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 1,1-Dimethylethyl 7-[(acetyloxy)methyl]-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate | 0.84 g, 79% | C(C)(=O)OCC1=CC2=C(OCCN2C(=O)OC(C)(C)C)C=N1 | C15H20N2O5
